US04980470
Synthesis of 5-amino-7-(3-amino-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid
A mixture of 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid (90 mg), 3-t-butoxycarbonylaminopyrrolidine (115 mg), DBU (50 mg) and anhydrous acetonitrile (4 ml) was refluxed for 20 hours. After cooling, the resulting precipitate was collected by filtration and added to concentrated hydrochloric acid-methanol (1:1, 2 ml). The mixture was stirred for 10 minutes at room temperature, then neutralized with concentrated aqueous ammonia, and the precipitate was collected by filtration. A solution of the precipitate in cold water was acidified with concentrated hydrochloric acid below pH 1 and allowed to stand in a refrigerator. The resulting precipitate was collected by filtration and washed with cold diluted aqueous hydrochloric acid to give the title compound (35 mg) as yellow needles, mp 254°-257° C. (decompd.).

reactant | 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 90 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)OC)C1CC1)C(=O)O)=O | C14H12F2N2O4
reactant | 3-t-butoxycarbonylaminopyrrolidine | 115 mg | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | DBU | 50 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 5-amino-7-(3-amino-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 35 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1)N)OC)C1CC1)C(=O)O)=O | C18H21FN4O4
